US04303583
2,3-Dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester
To a chilled and stirred mixture of 2,3-dihydroindole-2-carboxylic acid ethyl ester (4.78 g., 25.0 mmole), triethylamine (2.7 g., 26.7 mmole), and anhydrous ether (500 ml) was added dropwise methacryloyl chloride (2.9 g., 27.7 mmole) dissolved in a small amount of ether. After the completion of the addition, the ice bath was removed, and the reaction mixture was stirred for 4 hours. The precipitate which separated was removed by filtration, and the filter residue was washed with ether. The combined filtrate and washing were washed with water (two 700-ml portions), then with saline, and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure on a rotary evaporator gave the product as an oil. The product was purified by preparative HPLC (Prep LC/System 500, Waters Associates), using a micro porasil column eluted with a mixture of hexane (95%) and ethyl acetate (5%). The crude oil may be used directly in the following reaction

reactant | 2,3-dihydroindole-2-carboxylic acid ethyl ester | 25.0 mmole, 4.78 g | C(C)OC(=O)C1NC2=CC=CC=C2C1 | C11H13NO2
reactant | triethylamine | 26.7 mmole, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 27.7 mmole, 2.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | ether | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2,3-Dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(=C)C)=O | C15H17NO3
